US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(1-methyl-8-morpholin-4-yl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 1-Methyl-8-morpholin-4-yl-1,2,3,4-tetrahydro-isoquinoline to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 1-Methyl-8-morpholin-4-yl-1,2,3,4-tetrahydro-isoquinoline | CC1NCCC2=CC=CC(=C12)N1CCOCC1 | C14H20N2O
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(1-methyl-8-morpholin-4-yl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(C=CC=C1CC2)N2CCOCC2)C | C21H22BrN5O2
